US08975282B2
Step 4) 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2,3-difluorophenoxy)picolinamide
To a suspension of 4-(4-amino-2,3-difluorophenoxy)picolinamide (180 mg, 0.68 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (161 mg, 0.69 mmol) in DCM (4 mL) was added EDCI (157 mg, 0.82 mmol) and HOAT (19 mg, 0.14 mmol). The mixture was stirred at 45° C. for 12 hours, then more 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (87 mg, 0.37 mmol) was added and the reaction was further stirred at 45° C. for 5 hours. The mixture was cooled to rt, quenched with 5 mL of water, and extracted with EtOAc (10 mL×3). The combined organic phases were washed with brine (10 mL×3), dried over Na2SO4, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc 100%) to give the title compound as an orange solid (108 mg, 33.2%).

reactant | 4-(4-amino-2,3-difluorophenoxy)picolinamide | 0.68 mmol, 180 mg | NC1=C(C(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)F | C12H9F2N3O2
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.69 mmol, 161 mg | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 0.82 mmol, 157 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 0.14 mmol, 19 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 0.37 mmol, 87 mg | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)-2,3-difluorophenoxy)picolinamide | 108 mg, 33.2% | CN1N(C(C(=C1C)C(=O)NC1=C(C(=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F)F)=O)C1=CC=CC=C1 | C24H19F2N5O4
